Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
Iodine; Iodine Containing / Cardizem / Morphine / Vancomycin
 
Attending: ___.
 
Chief Complaint:
positive stress test- asymptomatic
 
Major Surgical or Invasive Procedure:
coronary artery bypass x 4 (LIMA-LAD, SVG-Dx2, SVG-OM, SVG-LPDA) 
___

 
History of Present Illness:
___ yo M with history of MI s/p PCI to
LAD in ___ who was recently noted to have an abnormal stress
test during workup for right total hip replacement. Cardiac 
catheterization reveals coronary artery disease.  The patient is 
referred for surgical revascularization.

 
Past Medical History:
DM-II on lantus (intermittently takes ___
CAD s/p MI ___
HTN
Low back pain
glaucoma
impotence
current smoking
peripheral neuropathy
trivial  MR
___

 
Social History:
___
Family History:
Father-CAD
Mother-DM
 
Physical Exam:
Physical Exam

Pulse:73      Resp:16       O2 sat: 97%RA
B/P  Right:173/77         Left:161/93 
___     Weight:252 lbs

General:
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds
+ [x]
Extremities: Warm [x], well-perfused [x]  Edema -none
Varicosities: None [x]
Neuro: Grossly intact
Pulses:
Femoral      Right: cath site  Left:+2
DP           Right:  +2 Left:+2
___           Right:+2   Left:+2
Radial       Right:+2   Left:+2

Carotid Bruit  -none      Right:  +2  Left:+2

 
Pertinent Results:
___ 06:00AM BLOOD WBC-20.7* RBC-3.19* Hgb-8.0* Hct-24.1* 
MCV-76* MCH-25.1* MCHC-33.3 RDW-19.7* Plt ___
___ 07:59AM BLOOD Glucose-228* UreaN-25* Creat-1.2 Na-138 
K-3.7 Cl-102 HCO3-28 AnGap-12

___ 04:30AM BLOOD WBC-15.7* RBC-3.34* Hgb-8.4* Hct-25.7* 
MCV-77* MCH-25.1* MCHC-32.6 RDW-19.8* Plt ___
___ 04:30AM BLOOD Glucose-52* UreaN-25* Creat-1.2 Na-140 
K-3.5 Cl-102 HCO3-30 AnGap-12

Pre Bypass: The left atrium is mildly dilated. No mass/thrombus 
is seen in the left atrium or left atrial appendage. No atrial 
septal defect is seen by 2D or color Doppler. There is mild 
symmetric left ventricular hypertrophy. The left ventricular 
cavity size is normal. Overall left ventricular systolic 
function is normal (LVEF>55%). Right ventricular chamber size 
and free wall motion are normal. There are simple atheroma in 
the aortic arch. There are simple atheroma in the descending 
thoracic aorta. The aortic valve leaflets (3) are mildly 
thickened. There is a minimally increased gradient consistent 
with minimal aortic valve stenosis. ___ calculates to 1.9 cm2 by 
continuity, but appears widely patent and has a plainemtery area 
of 2.4 cm2, limiting factor is likely LVOT diameter, which only 
measures 2.0-2.1 cm. Trace aortic regurgitation is seen. The 
mitral valve leaflets are mildly thickened. Mild (1+) mitral 
regurgitation is seen. There is no pericardial effusion.

Post Bypass: Patient is on Phenylepherine and in sinus rhythm. 
Biventricular function is preserved, LVEF >55%, MR is 1+. Aoritc 
contours intact. Remaining exam is unchanged. All findings 
discussedd with surgeons at the tiem of the exam.  
 
Brief Hospital Course:
The patient was admitted and brought to the operating room on 
___ where he underwent coronary artery bypassx4 as detailed 
in the operativen note.  Intraoperatively, the patient developed 
a reaction (rash and hypotension) to (likely) propofol.  He was 
treated with pressors, steroids and benadryl and recovered 
appropriately.  Overall the patient tolerated the procedure well 
and post-operatively was transferred to the CVICU in critical 
but stable condition for observation and recovery.  POD 1 found 
the patient extubated, alert and oriented and breathing 
comfortably.  He was neurologically intact and hemodynamically 
stable, on no inotropic or vasopressor support.  He does have a 
history of diabetes mellitus, and ___ was consulted for 
assistance with blood glucose management.  We appreciate their 
recommendations.  The patient was transferred to telemetry on 
POD 1.  Chest tubes and pacing wires were discontinued without 
complication.  On POD 4 the patient developed some serous 
sternal drainage without erythema.  He remained afebrile and WBC 
were decreasing from steroid load.  Keflex and cipro were 
started and drainage significantly decreased by POD 5. He will 
be maintained on antibiotics for a 10 day course with 
instructions to call for fever, erythema, or increased drainage. 
  He was cleared by ___ and discharged to home with ___ services 
and appropriate follow up instructions on POD 4. 
 
Medications on Admission:
Metformin 1000mg bid
roxicet PRN for back pain
Tiramcinolone acetonide cream PRN (eczema)
Atenolol 25mg daily
Lisinopril 40mg daily
Glyburide 5mg 3 tablets in the am
Simvastatin 20mg daily
HCTZ 25mg daily
Lantus 20 Units at hs
Xalatan eye gtt 1 gtt ___
Aspirin 325mg-on hold pre surgery

 
Discharge Medications:
1. Simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
2. Aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
3. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for pain.
Disp:*60 Tablet(s)* Refills:*0*
4. Ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily) for 1 months.
Disp:*30 Tablet(s)* Refills:*0*
5. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q4H (every 
4 hours) as needed for pain.  
6. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
7. Furosemide 40 mg Tablet Sig: One (1) Tablet PO twice a day 
for 2 weeks.
Disp:*28 Tablet(s)* Refills:*0*
8. Potassium Chloride 20 mEq Tab Sust.Rel. Particle/Crystal Sig: 
One (1) Tab Sust.Rel. Particle/Crystal PO Q12H (every 12 hours) 
for 2 weeks.
Disp:*28 Tab Sust.Rel. Particle/Crystal(s)* Refills:*0*
9. Cephalexin 500 mg Capsule Sig: One (1) Capsule PO Q6H (every 
6 hours) as needed for sternal drainage for 9 days.
Disp:*36 Capsule(s)* Refills:*0*
10. Lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*0*
11. Ciprofloxacin 250 mg Tablet Sig: Two (2) Tablet PO Q12H 
(every 12 hours) for 9 days.
Disp:*36 Tablet(s)* Refills:*0*
12. Metoprolol Tartrate 50 mg Tablet Sig: Three (3) Tablet PO 
TID (3 times a day).
Disp:*270 Tablet(s)* Refills:*2*
13. Glyburide 5 mg Tablet Sig: Two (2) Tablet PO BID (2 times a 
day).
Disp:*120 Tablet(s)* Refills:*2*
14. Insulin Lispro 100 unit/mL Solution Sig: One (1)  
Subcutaneous four times a day: SLIDING SCALE.
Disp:*QS * Refills:*2*
15. Insulin Glargine 100 unit/mL Solution Sig: Sixty (60) units 
Subcutaneous breakfast.
Disp:*qs * Refills:*2*
16. Insulin Glargine 100 unit/mL Solution Sig: Twenty (20) units 
Subcutaneous at bedtime.
Disp:*qs * Refills:*2*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
coronary artery disease, s/p coronary artery bypass this 
admission

 
Discharge Condition:
good

 
Discharge Instructions:
Please shower daily including washing incisions, no baths or 
swimming 
Monitor wounds for infection - redness, drainage, or increased 
pain 
Report any fever greater than 101 
Report any weight gain of greater than 2 pounds in 24 hours or 5 
pounds in a week 
No creams, lotions, powders, or ointments to incisions 
No driving for approximately one month, and while taking 
narcotics 
No lifting more than 10 pounds for 10 weeks 
Please call with any questions or concerns ___

 
Followup Instructions:
___